US05136090
To 4 ml of a DMF solution containing 97 mg (0.2513 mmol) of 2,2'-dihydroxy-5,5'-bis (2-ethoxycarbonylethyl) biphenyl and 363.7 μl (2.513 mmol) of hexyl bromide, there were added 41.6 mg (0.3109 mmol) of anhydrous potassium carbonate and a small amount of copper powder and the resulting mixture was agitated overnight at room temperature. The reaction mixture was filtered by suction through Celite to remove the solid matter and the filtrate was washed with ethyl acetate. After the solvent in the filtrate was evaporated off under reduced pressure, the evaporated residue was dissolved in chloroform. This solution was washed with dilute hydrochloric acid, dilute aqueous sodium bicarbonate, water and aqueous sodium chloride solution in this sequence and was dried by adding anhydrous sodium sulfate. The residue obtained after the solvent had been evaporated off was purified by silica gel column chromatography (with 10 g of WAKO-gel C-200, eluent: hexane and toluene/ethyl acetate of 100/1) to obtain 94.4 mg (0.2008 mmol, 80%) of 2-hexyloxy-2'-hydroxy-5,5'-bis (2ethoxycarbonylethyl) biphenyl as an oily product.

reactant | 2,2'-dihydroxy-5,5'-bis (2-ethoxycarbonylethyl) biphenyl | 0.2513 mmol, 97 mg | OC1=C(C=C(C=C1)CCC(=O)OCC)C1=C(C=CC(=C1)CCC(=O)OCC)O | C22H26O6
reactant | hexyl bromide | 2.513 mmol, 363.7 μl | C(CCCCC)Br | C6H13Br
reactant | potassium carbonate | 0.3109 mmol, 41.6 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | copper | [Cu] | Cu
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 2-hexyloxy-2'-hydroxy-5,5'-bis (2ethoxycarbonylethyl) biphenyl | 0.2008 mmol, 94.4 mg, 80% | C(CCCCC)OC1=C(C=C(C=C1)CCC(=O)OCC)C1=C(C=CC(=C1)CCC(=O)OCC)O | C28H38O6
